US08563617B2
304.1 [7-(2-Benzyloxycarbonylamino-ethyl)-1-(3-chloro-benzyl)-1,2,3,4-tetrahydro-naphthalen-2-yl]carbamic acid ethyl ester
A mixture of potassium (2-(benzyloxycarbonylamino)ethyl)trifluoroborate (1,130 g, 3.96 mmol), cesium carbonate (2.58 g, 7.93 mmol), 8-(3-chlorobenzyl)-7-(ethoxycarbonylamino)-5,6,7,8-tetrahydronaphthalen-2-yl trifluoromethanesulfonate (1.3 g, 2.64 mmol), Pd(OAc)2 (0.030 g, 0.132 mmol) and 2-dicyclohexyphosphino-2′,6′-di-i-propoxy-1,1′-biphenyl (0.130 g, 0.264 mmol) under N2 in toluene/water 3:1 (15 ml) was heated to refluxed for 13 h. The reaction was filtered, the solvent evaporated and the residue purified by chromatography to afford 1.04 g of product as colorless oil.

reactant | potassium (2-(benzyloxycarbonylamino)ethyl)trifluoroborate | 3.96 mmol, 1,130 g | C(C1=CC=CC=C1)OC(=O)NCC[B-](F)(F)F.[K+]
reactant | cesium carbonate | 7.93 mmol, 2.58 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 8-(3-chlorobenzyl)-7-(ethoxycarbonylamino)-5,6,7,8-tetrahydronaphthalen-2-yl trifluoromethanesulfonate | 2.64 mmol, 1.3 g | FC(S(=O)(=O)OC1=CC=2C(C(CCC2C=C1)NC(=O)OCC)CC1=CC(=CC=C1)Cl)(F)F | C21H21ClF3NO5S
solvent | toluene water | 15 ml | C1(=CC=CC=C1)C.O
catalyst | Pd(OAc)2 | 0.132 mmol, 0.030 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | [7-(2-Benzyloxycarbonylamino-ethyl)-1-(3-chloro-benzyl)-1,2,3,4-tetrahydro-naphthalen-2-yl]carbamic acid ethyl ester | 1.04 g | C(C)OC(NC1C(C2=CC(=CC=C2CC1)CCNC(=O)OCC1=CC=CC=C1)CC1=CC(=CC=C1)Cl)=O | C30H33ClN2O4
